US07662812B2
1-Ethyl-3-{4-[6-(8-methyl-3,8-diaza-bicyclo[3.2.1]oct-3-yl)-pyridazin-3-ylethynyl]-phenyl}-urea free base (Compound F4)
Was prepared according to Method F from 4-[6-(8-methyl-3,8-diaza-bicyclo[3.2.1]oct-3-yl)-pyridazin-3-ylethynyl]-phenylamine and ethylisocyanate. Mp 269° C. LC-ESI-HRMS of [M+H]+ shows 391.2253 Da. Calc. 391.224634 Da, dev. 1.7 ppm.

reactant | 4-[6-(8-methyl-3,8-diaza-bicyclo[3.2.1]oct-3-yl)-pyridazin-3-ylethynyl]-phenylamine | CN1C2CN(CC1CC2)C2=CC=C(N=N2)C#CC2=CC=C(C=C2)N | C19H21N5
reactant | ethylisocyanate | C(C)N=C=O | C3H5NO
product | 1-Ethyl-3-{4-[6-(8-methyl-3,8-diaza-bicyclo[3.2.1]oct-3-yl)-pyridazin-3-ylethynyl]-phenyl}-urea | C(C)NC(=O)NC1=CC=C(C=C1)C#CC=1N=NC(=CC1)N1CC2CCC(C1)N2C | C22H26N6O
